US07160888B2
Synthesis of 7-{5-[4-(2-Chloro-4-fluoro-phenyl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
7-{5-[4-(2-Chloro-4-fluoro-phenyl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one (0.268 g, 0.623 mmol) was hydrogenated using Ra—Ni (0.2 g) in THF for 13 hours. The reaction was filtered and concentrated to give an oil. Et2O was added and the product crashed out. The mixture was filtered and dried to give the title compound as a white solid (0.214 g, 80%). MS: APCI: M+1: 431.3 (Exact Mass: 430.19).

reactant | 7-{5-[4-(2-Chloro-4-fluoro-phenyl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.623 mmol, 0.268 g | ClC1=C(C=CC(=C1)F)N1CCN(CC1)CCCC=CC1=CC=C2CCC(NC2=N1)=O | C23H26ClFN4O
reactant | Et2O | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Ra—Ni | 0.2 g | [Ni] | Ni
product | 7-{5-[4-(2-Chloro-4-fluoro-phenyl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.214 g, 80% | ClC1=C(C=CC(=C1)F)N1CCN(CC1)CCCCCC1=CC=C2CCC(NC2=N1)=O | C23H28ClFN4O
